US08466283B2
Step 3: Preparation of 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(3-chloropropyl)morpholine
A solution of 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine (2.1 g, 9.07 mmol) in DCM (20 mL) was treated with triethylamine (3.8 mL, 27.2 mmol) and 1-chloro-3-iodopropane (1.95 mL, 18.1 mmol). The reaction mixture was stirred at rt overnight. The reaction mixture was concentrated under reduced pressure then purified by MPLC (ISCO, 0% MeOH/100% DCM to 25% MeOH/75% DCM). The product was isolated as an oil (560 mg, 20%): HPLC MS RT=2.66 min, MH+=308.4, 310.4; 1H NMR (DMSO-d6) δ: 3.79-3.69 (1H, m), 3.63 (2H, t) 3.59-3.52 (1H, m), 3.50-3.36 (3H, m), 2.73 (1H, d), 2.61 (1H, d), 2.35 (2H, t), 1.94 (1H, td), 1.83 (2H, qt), 1.73 (1H, t), 0.83 (9H, s), 0.00 (6H, s).

reactant | 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine | 9.07 mmol, 2.1 g | [Si](C)(C)(C(C)(C)C)OCC1CNCCO1 | C11H25NO2Si
reactant | triethylamine | 27.2 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-3-iodopropane | 18.1 mmol, 1.95 mL | ClCCCI | C3H6ClI
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(3-chloropropyl)morpholine | 560 mg, 20% | [Si](C)(C)(C(C)(C)C)OCC1CN(CCO1)CCCCl | C14H30ClNO2Si
